US06699864B2
To a suspension of litium aluminum hydride (8.0 g) in tetrahydrofuran (500 mL) was a solution of 3-indolepropionic acid (20 g) in tetrahydrofuran (100 mL) added dropwise. The reaction mixture was stirred for 1 h at room temperature and subsequently cooled to 5° C. After sequential addition of water (16 mL), 15% aqueous sodium hydroxide (8.0 mL) and water (40 mL), the reaction mixture was stirred at room temperature over night and filtered. Evaporation of the volatile solvents gave pure 3-(1H-indol-3-yl)propanol (19.1 g) as an oil. 3-(1H-Indol-3-yl)propanol (18.6 g) and carbon tetrabromide (42.1 g) was dissolved in acetonitrile (1 L) and cooled to 0° C. and triphenylphosphine (30.7 g) was added in small portions. The reaction was stirred for further 3 h at room temperature, the volatile solvents evaporated in vacuo and the remaining oil purified by silicagel chromatography (heptane:ethyl acetate/2:1) to give 3-(3-bromopropyl)-1H-indole (25.6 g).

reactant | 3-(1H-Indol-3-yl)propanol | 18.6 g | N1C=C(C2=CC=CC=C12)CCCO | C11H13NO
reactant | carbon tetrabromide | 42.1 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 30.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | 3-(3-bromopropyl)-1H-indole | 25.6 g | BrCCCC1=CNC2=CC=CC=C12 | C11H12BrN
